US08217177B2
A round bottom flask under nitrogen atmosphere was charged with sodium 2-chloro-2,2-difluoroacetate (0.49 g, 3.2 mmol), 8-chloro-1,5-naphthyridin-3-ol (0.25 g, 1.4 mmol), cesium carbonate (1.4 g, 4.2 mmol), and DMF (2.8 mL, 0.5M). This was then placed in a 100° C. preheated oil bath and stirred at this temperature for 3 hours. Reaction mixture diluted with 10% Methanol/Dichloromethane and filtered over celite. Filtrate concentrated and purified by ISCO silica gel chromatography (40 g) in 1% MeOH/DCM to afford pure 8-chloro-3-(difluoromethoxy)-1,5-naphthyridine (0.18 g, 56% yield) as white solid. MS [M+H]=231.2. Calc'd for C9H5ClF2N2O=230.60.

reactant | sodium 2-chloro-2,2-difluoroacetate | 3.2 mmol, 0.49 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | 8-chloro-1,5-naphthyridin-3-ol | 1.4 mmol, 0.25 g | ClC=1C=CN=C2C=C(C=NC12)O | C8H5ClN2O
reactant | cesium carbonate | 4.2 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 0.5M, 2.8 mL | CN(C)C=O | C3H7NO
solvent | Methanol Dichloromethane | CO.ClCCl
product | 8-chloro-3-(difluoromethoxy)-1,5-naphthyridine | 0.18 g, 56% yield | ClC=1C=CN=C2C=C(C=NC12)OC(F)F | C9H5ClF2N2O
